US07368579B2
4-Nitro-2-(4-nitrobenzenesulfonyl)imidazole (200 mg) and N,N-dimethylformamide (0.57 ml) suspension of 2-methyl-2-oxiranylmethyl (S)-4-nitrobenzenesulfonate (183 mg), potasium carbonate (120 mg) and cesium fluoride (20 mg) were stirred at a room temperature for 1.5 days. Water and ethyl acetate were added to the reaction mixture, and organic layer was taken by separation. The ethyl acetate layer was washed with water and an aqueous solution being saturated with sodium chloride, then dried over anhydrous sodium sulfate. The residue obtained by removal of the solvent by distillation was purified by use of a silica gel column chromatography (eluent: n-hexane/ethyl acetate=11/9 to 1/1), there was obtained (R)-1-(2-methyl-2-oxiranylmethyl)-4-nitro-2-(4-nitrobenzenesulfonyl)imidazole (76 mg, yield: 31%) as white powdery product.

reactant | 4-Nitro-2-(4-nitrobenzenesulfonyl)imidazole | 200 mg | [N+](=O)([O-])C=1N=C(NC1)S(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C9H6N4O6S
reactant | N,N-dimethylformamide | 0.57 ml | CN(C=O)C | C3H7NO
reactant | potasium carbonate | 120 mg | C([O-])([O-])=O.[K+].[K+]
reactant | cesium fluoride | 20 mg | [F-].[Cs+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | (R)-1-(2-methyl-2-oxiranylmethyl)-4-nitro-2-(4-nitrobenzenesulfonyl)imidazole | 76 mg, yield: 31% | C[C@@]1(OC1)CN1C(=NC(=C1)[N+](=O)[O-])S(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C13H12N4O7S
